US06680316B1
Preparation of 2-Benzyl-5,6-bis(4-methoxyphenyl)-4-ethylcarbamoyl-2H-pyridazin-3-one
Using 2-benzyl-5,6-bis(4-methoxyphenyl)-4-carboxy-2H-pyridazin-3-one and ethylamine hydrochloride as starting materials, the procedures of Example 22 were repeated likewise, whereby the title compound was obtained in a yield of 59.0%.

reactant | 2-benzyl-5,6-bis(4-methoxyphenyl)-4-carboxy-2H-pyridazin-3-one | C(C1=CC=CC=C1)N1N=C(C(=C(C1=O)C(=O)O)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C26H22N2O5
reactant | ethylamine hydrochloride | Cl.C(C)N
product | 2-Benzyl-5,6-bis(4-methoxyphenyl)-4-ethylcarbamoyl-2H-pyridazin-3-one | yield of 59.0% | C(C1=CC=CC=C1)N1N=C(C(=C(C1=O)C(NCC)=O)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C28H27N3O4
